US07632832B2
2-Oxo-1-[1-({[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]amino}carbonyl)piperidin-4-yl]-2,3-dihydro-1H-imidazole-4-carboxylic acid
Lithium hydroxide (43 mg, 1.03 mmol) in water (2 mL) was added to a solution methyl 2-oxo-1-[1-({[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]amino}carbonyl)piperidin-4-yl]-2,3-dihydro-1H-imidazole-4-carboxylate (30 mg, 0.051 mmol) in methanol (2 mL) and heated to 40 o C. After 2 h, the reaction was purified by preparative reverse phase chromatography to give the title compound (5 mg). MS 571.2 (M+1)

reactant | Lithium hydroxide | 1.03 mmol, 43 mg | [OH-].[Li+]
reactant | methyl 2-oxo-1-[1-({[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]amino}carbonyl)piperidin-4-yl]-2,3-dihydro-1H-imidazole-4-carboxylate | 0.051 mmol, 30 mg | O=C1N(C=C(N1)C(=O)OC)C1CCN(CC1)C(=O)N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O | C28H27F3N6O5
solvent | water | 2 mL | O | H2O
solvent | methanol | 2 mL | CO | CH4O
product | 2-Oxo-1-[1-({[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]amino}carbonyl)piperidin-4-yl]-2,3-dihydro-1H-imidazole-4-carboxylic acid | 5 mg | O=C1N(C=C(N1)C(=O)O)C1CCN(CC1)C(=O)N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O | C27H25F3N6O5
